US05324747
Using this procedure, the reaction of 4-nitrocatechol with octadecanoyl chloride gave 3,4-bis [(1-oxooctadecyl)oxy]nitrobenzene (mp 68°-70°) The structure was confirmed by the nmr spectrum.

reactant | 4-nitrocatechol | [N+](=O)([O-])C=1C=C(C(O)=CC1)O | C6H5NO4
reactant | octadecanoyl chloride | C(CCCCCCCCCCCCCCCCC)(=O)Cl | C18H35ClO
product | 3,4-bis [(1-oxooctadecyl)oxy]nitrobenzene | O=C(CCCCCCCCCCCCCCCCC)OC=1C=C(C=CC1OC(CCCCCCCCCCCCCCCCC)=O)[N+](=O)[O-] | C42H73NO6
